US08957212B2
To the solution dissolved 8.92 g of N,N′-carbonyldiimidazole (55 mmol; produced by Wako Pure Chemical Industries, Ltd.) into 40 mL of dimethylformamide (DMF), 10.4 g of 9-anthracenemethanol (50 mmol; produced by Wako Pure Chemical Industries, Ltd.) was added under cooling with ice, then, the solution was reacted by stirring for 1 hour at the same temperature. Subsequently, 6.94 g of monocyclohexylamine (70 mmol; produced by Wako Pure Chemical Industries, Ltd.) was added to this solution, and the solution was reacted by stirring for 2 hours at room temperature. After completing reaction, the reaction solution was poured into 110 mL of 3.5% hydrochloric acid, the resultant crystal was filtered, then, the resultant crystal was dried, the crystal after drying was added to 100 mL of toluene, and was hot-dissolved to hot-filtered at the temperature of 100° C. Subsequently, the filtrate obtained by filtration was cooled with ice, and the precipitated crystal was filtered, then, the resultant crystal was dried to obtain 15.4 g of 9-anthrylmethyl N-cyclohexylcarbamate (yield: 92%) represented by the above-described formula [15] as yellow crystal. Measurement results of 1H-NMR and melting point are shown as the follows:

reactant | 9-anthracenemethanol | 50 mmol, 10.4 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CO | C15H12O
reactant | monocyclohexylamine | 70 mmol, 6.94 g | C1(CCCCC1)N | C6H13N
reactant | hydrochloric acid | 110 mL | Cl | ClH
reactant | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 9-anthrylmethyl N-cyclohexylcarbamate | 15.4 g, yield: 92% | C1(CCCCC1)NC(OCC=1C2=CC=CC=C2C=C2C=CC=CC12)=O | C22H23NO2
